US06002008
4-[(3-Methylsulfanylphenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 5.00 g (21.5 mmol) 4-chloro-6-nitro-3-quinolinecarbonitrile, 200 ml ethanol, and 3.18 ml (25.8 mmol) 3-methylsulfanylaniline was heated to reflux under N2. At 2 hours, removed heat and made basic with saturated sodium bicarbonate. Stripped solvents and air dried. Washed residue with hexane, collected solids and washed with water. Dissolved in ethyl acetate, stirred with Darco, stripped solvent and dried in vacuo, giving 4.848 g of yellow solid: mass spectrum (electrospray m/e): M+H=337.1.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 21.5 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3-methylsulfanylaniline | 25.8 mmol, 3.18 ml | CSC=1C=C(N)C=CC1 | C7H9NS
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-[(3-Methylsulfanylphenyl)amino]-6-nitro-3-quinolinecarbonitrile | 4.848 g | CSC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C17H12N4O2S
